US07217723B2
(3-{[2-(4-Fluorophenyl)-2-methoxymethoxyethyl]methylsulfamoyl}-5-isobutyrylthiophene-2-yl)carbamic acid t-butyl ester
Using (3-{[2-(4-fluorophenyl)-2-methoxymethoxyethyl]methylsulfamoyl}-5-formylthiophene-2-yl)carbamic acid t-butyl ester (200 mg), isopropyl group was introduced in the same way as Preparation Example 87, and a crude alcohol was obtained. Dess-Martin reagent (204 mg) was added to a solution of this compound in dichloromethane (2 mL). After stirring for 1 hour, an aqueous solution of saturated sodium bicarbonate and an aqueous solution of sodium thiosulfate were added, and the solution was extracted with ethyl acetate. After washing with saturated sodium chloride water, the solution was dried with anhydrous sodium sulfate. The solution was filtered through a small amount of silica gel, and the title compound (180 mg) was obtained as an orange oily substance.

reactant | (3-{[2-(4-fluorophenyl)-2-methoxymethoxyethyl]methylsulfamoyl}-5-formylthiophene-2-yl)carbamic acid t-butyl ester | 200 mg | C(C)(C)(C)OC(NC=1SC(=CC1S(N(C)CC(OCOC)C1=CC=C(C=C1)F)(=O)=O)C=O)=O | C21H27FN2O7S2
reactant | Dess-Martin reagent | 204 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | (3-{[2-(4-Fluorophenyl)-2-methoxymethoxyethyl]methylsulfamoyl}-5-isobutyrylthiophene-2-yl)carbamic acid t-butyl ester | 180 mg | C(C)(C)(C)OC(NC=1SC(=CC1S(N(C)CC(OCOC)C1=CC=C(C=C1)F)(=O)=O)C(C(C)C)=O)=O | C24H33FN2O7S2
